US07132436B2
2,4,6-Trichloro-N-[4-(4-fluoro-3-methylphenyl)-1,3-thiazol-2-yl]benzenesulfonamide
The title compound was prepared from 2-amino-4-(4′-fluoro-3′-methyl)phenylthiazole and 2,4,6-trichlorobenzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (50.9 mg) with purity >90%: MS (pos) m/z 451.0, 453.0, 455.0; HRMS m/z 449.9218 (calc. of monoisotopic mass for C16H10Cl3FN2O2S2 gives 449.9233).

reactant | 2-amino-4-(4′-fluoro-3′-methyl)phenylthiazole | CC1=C(C=CC(=C1)C2=CSC(=N2)N)F | C10H9FN2S
reactant | 2,4,6-trichlorobenzenesulfonyl chloride | ClC1=C(C(=CC(=C1)Cl)Cl)S(=O)(=O)Cl | C6H2Cl4O2S
product | 2,4,6-Trichloro-N-[4-(4-fluoro-3-methylphenyl)-1,3-thiazol-2-yl]benzenesulfonamide | ClC1=C(C(=CC(=C1)Cl)Cl)S(=O)(=O)NC=1SC=C(N1)C1=CC(=C(C=C1)F)C | C16H10Cl3FN2O2S2
